US07183445B2
To the solution of KOtBu (1.0 M in tBuOH, 10.7 mL) at 25 cC was added Hagemann's ester (1.0 mL, 5.324 mmol). The mixture was stirred for 10 min at 25° C. and then to the mixture was added 1-[2-(4-chloromethyl-phenoxy)ethyl]piperidine hydrochloride (1.54 g, 5.324 mmol). The mixture was refluxed for 3 h. The tBuOH was distilled off, then the reaction mixture was diluted with water and diethyl ether. The layers were separated and the aqueous layer was extracted with diethyl ether. The organic extracts were acidified with 1N HCl (100 mL). The layers were separated and the diethyl ether layer was discarded. The aqueous layer was then basicified to pH 11 with 10% NaOH (aq) and extracted with diethyl ether to yield 2-methyl-4-oxo-3-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-2-enecarboxylic acid ethyl ester as dark amber oil.

reactant | KOtBu | 1.0 M, 10.7 mL | CC(C)(C)[O-].[K+]
reactant | Hagemann's ester | 5.324 mmol, 1.0 mL | CCOC(=O)C1CCC(=O)C=C1C | C10H14O3
reactant | 1-[2-(4-chloromethyl-phenoxy)ethyl]piperidine hydrochloride | 5.324 mmol, 1.54 g | Cl.ClCC1=CC=C(OCCN2CCCCC2)C=C1
product | 2-methyl-4-oxo-3-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-2-enecarboxylic acid ethyl ester | C(C)OC(=O)C1C(=C(C(CC1)=O)CC1=CC=C(C=C1)OCCN1CCCCC1)C | C24H33NO4
